US04416880
2-(2,4,6-Trimethylbenzylidene)-3-oxo-4-chlorobutyric acid ethyl ester
90 g of 2,4,6-trimethylbenzaldehyde, 150 g of 4-chloroacetoacetic acid ethyl ester, 2.6 ml of piperidine and 7 ml of glacial acetic acid were dissolved in 60 ml of benzene and the solution was boiled for 6 hours using a water separator. 200 ml of ethyl acetate were added to the cooled solution, the solution was extracted in each case once with saturated sodium bicarbonate solution, water and 1 M citric acid solution and the extract was dried over magnesium sulphate and evaporated. The crude product was subjected to incipient distillation under a high vacuum in order to free it from excess 4-chloroacetoacetic acid ethyl ester. After chromatography of the product on Silica gel 60 (Merck, 70-230 mesh), 21 g of the E-isomer could be crystallized with isopropanol and 3:1 Z/E mixture remained as the mother liquor in the form of an oil. Total yield: 39%. E-isomer: melting point 85°.

reactant | 2,4,6-trimethylbenzaldehyde | 90 g | CC1=C(C=O)C(=CC(=C1)C)C | C10H12O
reactant | 4-chloroacetoacetic acid ethyl ester | 150 g | C(C)OC(CC(=O)CCl)=O | C6H9ClO3
reactant | piperidine | 2.6 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-(2,4,6-Trimethylbenzylidene)-3-oxo-4-chlorobutyric acid ethyl ester | yield: 39% | C(C)OC(C(C(CCl)=O)=CC1=C(C=C(C=C1C)C)C)=O | C16H19ClO3
